US04985422
3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-benzofuro[3,2-c]-pyridin-1(2H)-one maleate
Sodium hydride (73% dispersion in oil; 20 mg) was added to a stirred solution of 3,4-dihydrobenzofuro[3,2-c]pyridin-1(2H)-one (95 mg) in dry dimethoxyethane (3 ml) under nitrogen. After 30 min. 4-(chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole (227 mg) was added and the mixture was stirred at 50° for 18h. Acetic acid (1 ml) and water (1 ml) were added and the solution was heated at reflux for 1h. The mixture was poured into 8% sodium bicarbonate solution (30 ml) and extracted with dichloromethane (3×15 ml). The combined, dried organic extracts were evaporated to give a solid (ca.420 mg) which was purified by SPCC eluting with System A (200:10:1) to give the free base of the title compound (77 mg). This was dissolved in absolute ethanol (2 ml) and treated with a solution of maleic acid (33 mg) in absolute ethanol (1 ml). The solvent was removed in vacuo and the residue was triturated with dry ether (3×5 ml) to give the title compound (85mg), m.p. 285°-286°, t.l.c. (System A, 200:10:1) Rf 0.24.

reactant | Sodium hydride | 20 mg | [H-].[Na+]
reactant | 3,4-dihydrobenzofuro[3,2-c]pyridin-1(2H)-one | 95 mg | C1(NCCC2=C1C1=C(O2)C=CC=C1)=O | C11H9NO2
reactant | 4-(chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole | 227 mg | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | dimethoxyethane | 3 ml | C(OC)COC | C4H10O2
solvent | water | 1 ml | O | H2O
solvent | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-benzofuro[3,2-c]-pyridin-1(2H)-one maleate | 77 mg | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CN1C(C2=C(CC1)OC1=C2C=CC=C1)=O | InChI=1S/C16H15N3O2.C4H4O4/c1-10-12(18-9-17-10)8-19-7-6-14-15(16(19)20)11-4-2-3-5-13(11)21-14;5-3(6)1-2-4(7)8/h2-5,9H,6-8H2,1H3,(H,17,18);1-2H,(H,5,6)(H,7,8)/b;2-1-
